US05536737
A sulfur trioxide-pyridine complex (985 mg) was added to a solution of (S)-2-[[(S)-2-[3-(tert-butyldimethylsilyloxy)-1-hydroxypropyl]-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide (1.01 g) in a mixture of toluene (2 ml), DMSO (3 ml) and triethyl amine (0.94 ml), under ice-cooling, and the mixture was stirred for 3 hours. The reaction mixture was poured into ice water, and extracted with ethyl acetate. The organic layer was washed with 10% citric acid, water, saturated sodium hydrogencarbonate, 1% hypochlorous acid, and water in order, dried over anhydrous sodium sulfate, and concentrated. The residue was subjected to silica gel column chromatography (eluent: chloroform-methanol) to give (S)-2[[(S)-2-[3-(tert-butyldimethylsilyloxy)-1-oxopropyl]-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide (374 mg) and the title compound (280 mg) (see Table 5).

reactant | (S)-2-[[(S)-2-[3-(tert-butyldimethylsilyloxy)-1-hydroxypropyl]-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide | 1.01 g | [Si](C)(C)(C(C)(C)C)OCCC(O)[C@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(=O)NCC1=CC=CC=C1 | C26H43N3O4Si
reactant | DMSO | 3 ml | CS(=O)C | C2H6OS
reactant | triethyl amine | 0.94 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-2[[(S)-2-[3-(tert-butyldimethylsilyloxy)-1-oxopropyl]-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide | 374 mg | [Si](C)(C)(C(C)(C)C)OCCC(=O)[C@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(=O)NCC1=CC=CC=C1 | C26H41N3O4Si
